US08431569B2
Step 1. 7-Methyl-1,4-dioxaspiro[4.5]decan-8-one
To a stirred solution of LHMDS (1.0 M in THF, 2.1 L, 2.1 mol) at −60° C. was added 1,4-dioxaspiro[4.5]decan-8-one (300 g, 1.9 mol) in DMF (1.2 L) slowly via an addition funnel while maintaining the reaction temperature below −60° C. The reaction mixture was allowed to stir at −60° C. for 1.5 h, and treated with MeI (286 g, 2.0 mol) via an addition funnel. The reaction mixture was allowed to warm to room temperature over 3 h, and treated with half-saturated ammonium chloride solution (2 L). The mixture was diluted with MTBE (2 L), washed with water (×3), dried (magnesium sulfate), and concentrated. The residue was azeotroped with isooctane (500 mL×2), and recrystallized from isooctane to afford the title compound. 1H NMR (400 MHz, CDCl3) δ 4.05-3.95 (m, 4H); 2.70 (m, 1H); 2.61 (dtd, 1H); 2.33 (ddd, 1H); 2.10-1.97 (m, 2H); 1.92 (dt, 1H); 1.68 (t, 1H); 1.00 (d, 3H).

reactant | LHMDS | 2.1 mol, 1.0 M, 2.1 L | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 1.9 mol, 300 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | MeI | 2.0 mol, 286 g | CI | CH3I
reactant | ammonium chloride | 2 L | [Cl-].[NH4+]
solvent | DMF | 1.2 L | CN(C)C=O | C3H7NO
solvent | MTBE | 2 L | CC(C)(C)OC | C5H12O
product | 7-Methyl-1,4-dioxaspiro[4.5]decan-8-one | CC1CC2(OCCO2)CCC1=O | C9H14O3
